US05216148
44.3 g of powdered potassium hydroxide were suspended in 200 ml of dimethyl sulphoxide and a solution of 50 g of N-(3-bromophenyl)-3,3-dimethyl-acrylamide in 300 ml of DMSO was added dropwise thereto. The mixture was stirred at room temperature for 1 hour and subsequently a solution of 50.3 g of propyl iodide in 200 ml of DMSO was added dropwise thereto. After 2 hours the reaction mixture was poured on to ice-water, extracted three times with ethyl acetate, the organic phase was washed several times with water, dried and evaporated. After filtration of the crude product over a silica gel column (eluent hexane/ethyl acetate 9:1), 58 g of N-propyl-N-(3-bromophenyl)-3,3-dimethyl-acrylamide were obtained as a yellow oil. This product was dissolved in 1.5 l of petroleum ether (high boiling). 52.3 g of aluminium chloride were added portionwise thereto while stirring and the mixture was subsequently heated at reflux for 2.5 hours. After cooling to 0°-5° C. 500 ml of ice-cold 1N hydrochloric acid were added dropwise thereto, the mixture was diluted with water and extracted several times with ether. The yellow oil obtained after drying and evaporation of the solvent was a 6:4 mixture of 5-bromo-3,4-dihydro-4,4-dimethyl-1-propyl-2(1H)-quinolinone. It was filtered over a silica gel column (eluent hexane/5% ethyl acetate) and taken up in a small amount of hexane. After seeding with the 7-bromo compound above, 12.2 g of pure 7-bromo-3,4-dihydro-4,4-dimethyl-1-propyl-2(1H)-quinolinone crystallized in the cold in colourless crystals, m.p. 50°-51° C.

reactant | potassium hydroxide | 44.3 g | [OH-].[K+]
reactant | N-(3-bromophenyl)-3,3-dimethyl-acrylamide | 50 g | BrC=1C=C(C=CC1)NC(C=C(C)C)=O | C11H12BrNO
reactant | propyl iodide | 50.3 g | C(CC)I | C3H7I
solvent | dimethyl sulphoxide | 200 ml | CS(=O)C | C2H6OS
solvent | DMSO | 300 ml | CS(=O)C | C2H6OS
solvent | DMSO | 200 ml | CS(=O)C | C2H6OS
product | N-propyl-N-(3-bromophenyl)-3,3-dimethyl-acrylamide | 58 g | C(CC)N(C(C=C(C)C)=O)C1=CC(=CC=C1)Br | C14H18BrNO
